US07632838B2
A stirred solution of (R)-4-(4-fluoro-2-(trifluoromethyl)phenyl)-1-(3-methoxyphenylsulfonyl)-2-methylpiperazine (2.22 g, 5.13 mmol) in anhydrous dichloromethane (60 mL) was cooled down to −50° C. (acetone+dry ice bath). BBr3 (1M in CH2Cl2) was added dropwise via addition funnel while keeping the temperature between −50° C. and −55° C. Then the reaction mixture was stirred at −50° C. to −20° C. for 3 hours. Reaction was complete as determined by TLC. The reaction mixture was quenched with water and diluted with dichloromethane. pH was adjusted to 7 using saturated NaHCO3 (aqueous) and it was allowed to stir for 20 minutes. The layers were separated; the organic layer was dried over MgSO4 and concentrated. The reaction was repeated in 2.85 g scale. The combined crud products were purified via flash column chromatography to yield 3-({(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)phenol in 96% yield (4.07 g) as a white solid. HRMS: calcd for C18H18F4N2O3S+H+, 419.10470. found (ESI-FTMS, [M+H]1+), 419.104. HPLC Method 1: room temperature, 6.318 min, 100%, HPLC Method 2: room temperature, 7.220 min, 99.48%.

reactant | (R)-4-(4-fluoro-2-(trifluoromethyl)phenyl)-1-(3-methoxyphenylsulfonyl)-2-methylpiperazine | 5.13 mmol, 2.22 g | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C1=CC(=CC=C1)OC)C)C(F)(F)F | C19H20F4N2O3S
reactant | acetone dry ice | CC(=O)C.C(=O)=O
reactant | BBr3 | 1M | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 3-({(2R)-4-[4-fluoro-2-(trifluoromethyl)phenyl]-2-methylpiperazin-1-yl}sulfonyl)phenol | 96% yield | FC1=CC(=C(C=C1)N1C[C@H](N(CC1)S(=O)(=O)C=1C=C(C=CC1)O)C)C(F)(F)F | C18H18F4N2O3S
